US07615648B2
3-{[(2,4-dichlorobenzyl)-(3-hydroxy-3-methyl-butyl)-amino]-methyl}-azetidine-1-carboxylic acid tert-butyl ester (88 mg, 0.2 mmol) is added to a stirred solution of dichloromethane (1.0 mL) and anisole (1.5 mL). Trifluoroacetic acid (0.6 mL) is added and the reaction is stirred for 2 h at room temperature. The reaction is concentrated to half volume and loaded onto a SCX-2 (10 g) column and washed with methanol (40 mL). The product is then eluted with 2M ammonia in methanol (25 mL) and concentrated to yield (57 mg, 87%) of N-(3-hydroxy-3-methylbutyl)-N-{[2,4-dichlorophenyl]-methyl}-azetidine-3-yl-methylamine. 1H NMR (400 MHz, CD3OD) δH: 7.49-7.47 (2H, m), 7.36-7.33 (1H, m), 3.80-3.70 (2H, m), 3.65 (2H, s), 3.49-3.40 (2H, m), 3.16-3.06 (1H, m), 2.79-2.77 (2H, m), 2.67 (2H, t, J=7.3 Hz), 1.69 (2H, t, J=7.3 Hz), 1.1 (6H, s). Mass spectrum (ion spray): m/z=331.2 (M+H).

reactant | 3-{[(2,4-dichlorobenzyl)-(3-hydroxy-3-methyl-butyl)-amino]-methyl}-azetidine-1-carboxylic acid tert-butyl ester | 0.2 mmol, 88 mg | C(C)(C)(C)OC(=O)N1CC(C1)CN(CCC(C)(C)O)CC1=C(C=C(C=C1)Cl)Cl | C21H32Cl2N2O3
reactant | anisole | 1.5 mL | C1(=CC=CC=C1)OC | C7H8O
reactant | Trifluoroacetic acid | 0.6 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1.0 mL | ClCCl | CH2Cl2
product | N-(3-hydroxy-3-methylbutyl)-N-{[2,4-dichlorophenyl]-methyl}-azetidine-3-yl-methylamine | 57 mg, 87% | OC(CCN(CC1=C(C=C(C=C1)Cl)Cl)CC1CNC1)(C)C | C16H24Cl2N2O
